US03932392
Preparation of 7-ADCA
7-(Phenoxyacetamido)-3-methyl-3-cephem-4-carboxylic acid (11.38 mmoles) is dissolved in 80 ml of methylene chloride. Dicyclohexylamine or diisopropylamine (13 mmoles) is added with stirring and 1.75 ml of dichlorodimethylsilane is added. After stirring for 30 minutes, the mixture is cooled to -45° C and an additional 27.77 mmoles of the same amine as used above is added followed by 3 g of finely powdered PCl5.

reactant | 7-(Phenoxyacetamido)-3-methyl-3-cephem-4-carboxylic acid | 11.38 mmoles | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C16H16N2O5S
reactant | Dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | diisopropylamine | 13 mmoles | C(C)(C)NC(C)C | C6H15N
reactant | dichlorodimethylsilane | 1.75 ml | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | PCl5 | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 7-ADCA | CC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C8H10N2O3S
